US05281617
(±)-2-(6'-Methoxynaphthyl)butanoyloxysuccinimide (33)
A mixture of 2-(6'methoxynaphthyl)butyric acid (0.519 g, 2.12 mmol) in 20 mL of dry methylene chloride was treated with 3.19 mL of a 2.0 thionyl chloride (6.37 mmol) solution and the resulting solution was allowed to stir overnight. The volatile solvents were removed under vacuum to give the crude acid chloride which was used without further purification. A portion of the acid chloride (139 mg, 0.53 mmol) in 10 mL of dry toluene was added to a stirred solution of N-hydroxysuccinimide (61 mg, 0.53 mmol) and pyridine (42 mg, 0.53 mmol) in 10 mL of dry THF. After stirring overnight, the precipitated pyridine hydrochloride was filtered off and the filtrate concentrated under vacuum. The residue was chromotographed on silica gel (CHCl3 /MeOH) to afford 15 mg of the product as a white solid. Yield 8%; 1H NMR (CDCl3) δ 1.02 (t, 3 H, J=7.4 Hz), 1.95-2.10 (m, 1 H), 2.20-2.35 (m, 1 H), 2.75 (br s, 4 H), 3.91 (m, 4 H), 7.10-7.20 (m, 2 H), 7.40-7.48 (m, 1 H), 7.69-7.82 (m, 3 H); 13C NMR (CDCl3) δ 11.61, 25.34, 26.90, 50.26, 55.23, 105.70, 119.27, 126.31, 127.25, 127.60, 129.04, 129.57, 131.94, 134.23, 158.16, 169.28, 169.78; Anal. Calcd for C19H19NO5 : C, 66.85; H, 5.61; N, 4.10. Found: C, 65.92; H, 5.41; N, 3.64.

reactant | 2-(6'methoxynaphthyl)butyric acid | 2.12 mmol, 0.519 g | COC=1C=C2C=CC=C(C2=CC1)C(C(=O)O)CC | C15H16O3
reactant | thionyl chloride | 6.37 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | N-hydroxysuccinimide | 0.53 mmol, 61 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | pyridine | 0.53 mmol, 42 mg | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (±)-2-(6'-Methoxynaphthyl)butanoyloxysuccinimide | 15 mg, Yield 8% | COC=1C=C2C=CC=C(C2=CC1)C(C(=O)OC1C(=O)NC(C1)=O)CC | C19H19NO5
